US04959359
A mixture of 2.3 g (0.006 mol) of trans-rac.-6-(acetyl-oxy)-6,7-dihydro-7-(4-methoxyphenyl)-3-methyl-2-phenyl-1,4-thiazepin-5(4H)-one, 1.0 g (0.0072 mol) of powdered potassium carbonate, and 0.8 g (0.0066 mol) of 2-dimethylaminoethyl chloride in 50 ml of ethyl acetate was stirred and heated at reflux for 2 hours, then twice an additional 0.3 g of dimethylaminoethyl chloride was added at 2 hour intervals. The mixture was heated at reflux for a total of 2 hours, then cooled to room temperature and diluted with water. The organic phase was separated, washed with brine and dried (MgSO4) and the solvent was removed under reduced pressure. The residue was crystallized from ether to give 1.7 g (70%) of trans-rac.-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl)-3-methyl-4-[2-(dimethylamino)-ethyl]-2-phenyl-1,4-thiazepin-5(4H)-one, mp 119°-120°.

reactant | trans-rac.-6-(acetyl-oxy)-6,7-dihydro-7-(4-methoxyphenyl)-3-methyl-2-phenyl-1,4-thiazepin-5(4H)-one | 0.006 mol, 2.3 g | C(C)(=O)O[C@@H]1C(NC(=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)C)=O | C21H21NO4S
reactant | potassium carbonate | 0.0072 mol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride | 0.0066 mol, 0.8 g | CN(CCCl)C | C4H10ClN
reactant | dimethylaminoethyl chloride | 0.3 g | CN(C)CCCl | C4H10ClN
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | trans-rac.-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl)-3-methyl-4-[2-(dimethylamino)-ethyl]-2-phenyl-1,4-thiazepin-5(4H)-one | 1.7 g, 70% | C(C)(=O)O[C@@H]1C(N(C(=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)C)CCN(C)C)=O | C25H30N2O4S
